US07592477B2
Step a) Formation of N-{4-[(trifluoromethyl)sulfonyl]benzyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 4-[(trifluoromethyl)sulfonyl]benzylamine hydrochloride gave the title compound as an oil. M+(LC/MS(ESI)): 552.7. HPLC (Condition A), Rt: 4.85 min (HPLC purity: 36%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 4-[(trifluoromethyl)sulfonyl]benzylamine hydrochloride | Cl.FC(S(=O)(=O)C1=CC=C(CN)C=C1)(F)F
product | N-{4-[(trifluoromethyl)sulfonyl]benzyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | FC(S(=O)(=O)C1=CC=C(CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCCCCC)C=C1)(F)F | C28H36F3N3O3S
